US07553854B2
Step 3. Synthesis of 4-(2-(cyclohexylmethylamino)-4-methylbenzo[d]thiazol-6-yloxy)methyl picolinamide
To the solution of 4-(2-amino-4-methylbenzo[d]thiazol-6-yloxy)-N-methylpicolinamide (30 mg, 0.095 mmol, 1.0 eq) in 1 mL of NMP was added bromomethyl cyclohexane (20 μL, 0.142 mmol, 1.5 eq) and potassium carbonate (40 mg, 0.285 mmol, 3.0 eq) at room temperature. The reaction mixture was stirred at 80° C. for 12 hours and thereafter purified via reverse phase HPLC. LC/MS (m/z) [411.1] (MH+)

reactant | 4-(2-amino-4-methylbenzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 0.095 mmol, 30 mg, 1.0 eq | NC=1SC2=C(N1)C(=CC(=C2)OC2=CC(=NC=C2)C(=O)NC)C | C15H14N4O2S
reactant | bromomethyl cyclohexane | 0.142 mmol, 20 μL, 1.5 eq | BrCC1CCCCC1 | C7H13Br
reactant | potassium carbonate | 0.285 mmol, 40 mg, 3.0 eq | C([O-])([O-])=O.[K+].[K+]
reactant | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 4-(2-(cyclohexylmethylamino)-4-methylbenzo[d]thiazol-6-yloxy)methyl picolinamide | C1(CCCCC1)CNC=1SC2=C(N1)C(=CC(=C2)OCC2=CC(=NC=C2)C(=O)N)C | C22H26N4O2S
